US06159990
Through a solution of 3,4-difluorobenzaldehyde (25.0 g, 0.18 mol) in MeOH (500 mL)in a round bottom flask, was bubbled ammonia gas for two hours at room temperature. The flask was then cooled to 0° C. and trimethylsilyl cyanide (1.3 eq., 0.23 mmol) was then added slowly. The reaction mixture was stirred for 2 h when TLC analysis indicated that the reaction was complete (Rf =0.35, 3:2 hexane/EtOAc). Solvent was removed in vacuo and the residue was subjected to flash column chromatography on silica gel to obtain 25.0 g (81%) of amino-(3,4-difluorophenyl)-acetonitrile as a yellow syrup.

reactant | 3,4-difluorobenzaldehyde | 0.18 mol, 25.0 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | ammonia | N | H3N
reactant | trimethylsilyl cyanide | 0.23 mmol, 1.3 eq. | C[Si](C)(C)C#N | C4H9NSi
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | MeOH | 500 mL | CO | CH4O
product | amino-(3,4-difluorophenyl)-acetonitrile | 25.0 g, 81% | NC(C#N)C1=CC(=C(C=C1)F)F | C8H6F2N2
